US05807883
A mixture of 2.00 g of 3,4-dichloro-N-[3-(2-cyanoethyl)-2,3-dihydro-2-oxo-1-pentyl-1H-indol-3-yl]benzamide, 3.0 g of tributyltin azide (Bu3SnN3) and 1.5 ml of toluene was stirred at 110° C. for 3 hours. After cooling, a 50 ml of ethanolic 6.4% hydrochloric acid solution was added to the mixture, and the resulting mixture was stirred at room temperature for 30 minutes. After removal of solvent by evaporation, ethyl acetate and then an aqueous saturated potassium fluoride solution were added to the residue, and insolubles were removed by filtration. The ethyl acetate layer was collected by separation, washed with water and evaporated. The residue was dissolved in an aqueous 5% sodium hydroxide solution and washed with water with diethyl ether. After the aqueous layer was made acidic with 10% hydrochloric acid, it was extracted with ethyl acetate. The extract was washed with water and dried, and solvent was evaporated. The residue was recrystallized from ethyl acetate to afford 1.72 g of 3,4-dichloro-N-{2,3-dihydro-2-oxo-1-pentyl-3-[2-(1H-tetrazol-5-yl)ethyl]-1H-indol-3-yl}-benzamide as colorless needles. Melting point: 142° TO 147° C., IR (Nujol) (cm-1): 3340, 1705, 1655, 1675, 1615, FAB-MS (m/z): 489 & 487 (MH+).

reactant | 3,4-dichloro-N-[3-(2-cyanoethyl)-2,3-dihydro-2-oxo-1-pentyl-1H-indol-3-yl]benzamide | 2.00 g | ClC=1C=C(C(=O)NC2(C(N(C3=CC=CC=C23)CCCCC)=O)CCC#N)C=CC1Cl | C23H23Cl2N3O2
reactant | tributyltin azide | 3.0 g | C(CCC)[Sn](CCCC)(CCCC)N=[N+]=[N-]
reactant | hydrochloric acid | Cl | ClH
solvent | toluene | 1.5 ml | C1(=CC=CC=C1)C | C7H8
product | 3,4-dichloro-N-{2,3-dihydro-2-oxo-1-pentyl-3-[2-(1H-tetrazol-5-yl)ethyl]-1H-indol-3-yl}-benzamide | 1.72 g | ClC=1C=C(C(=O)NC2(C(N(C3=CC=CC=C23)CCCCC)=O)CCC2=NN=NN2)C=CC1Cl | C23H24Cl2N6O2
